### PR TITLE
Add extra eta lemmas for the under tactic

### PR DESCRIPTION
**Pull request by erikmd**
**Kind:** enhancement (support lemmas for `under`)
 
Related: coq/coq#9651

Example of use:

```coq
Require Import ssreflect.
From mathcomp Require Import ssrbool ssrfun eqtype ssrnat seq div choice.
From mathcomp Require Import fintype finfun bigop finset prime tuple.
From mathcomp Require Import ssralg countalg binomial poly fingroup finalg.
From mathcomp Require Import perm zmodp matrix.

Local Open Scope ring_scope.

Section test.
Variable R : ringType.
Variable d : nat -> R.
Variable r : R.

Lemma test_mx (n : nat) :
  \matrix_(i < n, j < n) (d i + d j) = \matrix_(i < n, j < n) (d j + d i).
Proof.
under i j: eq_mx.
[…]
```

Feel free to comment if you have remarks on the naming convention, or suggestions for other useful "eta lemmas"…

### CODE REVIEW

File: mathcomp/ssreflect/finfun.v [hunk 1]
```diff
@@ -128,6 +128,10 @@ split=> [eq_f12 | -> //]; do 2!apply: val_inj => /=.
 by rewrite !fgraph_codom /= (eq_codom eq_f12).
 Qed.
 
+Lemma eq_ffun (g1 g2 : aT -> rT) :
+  g1 =1 g2 -> [ffun x => g1 x] = [ffun x => g2 x].
```
Comment (pi8027) [inline mathcomp/ssreflect/finfun.v]: I personally prefer `finfun g1 = finfun g2` instead of `[ffun x => g1 x] = [ffun x => g2 x]` because it has no eta-redex.

Comment (erikmd) [reply mathcomp/ssreflect/finfun.v]: Indeed, thanks @pi8027! I force-pushed a new version with no eta-redex for {finfun, finset, poly}.

File: mathcomp/ssreflect/finset.v [hunk 2]
```diff
@@ -239,11 +239,15 @@ Proof. by rewrite in_set. Qed.
...
 
+Lemma eq_finset (pA pB : pred T) : pA =1 pB -> finset pA = finset pB.
+Proof. by move=> eq_p; apply/setP => x; rewrite !(in_set, inE) eq_p. Qed.
+
 End BasicSetTheory.
 
 Definition inE := (in_set, inE).
 
 Arguments set0 {T}.
+Arguments eq_finset [T pA] pB eq_pAB.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v]: At least for consistency, I believe `T` should be made maximally implicit.

File: mathcomp/ssreflect/tuple.v [hunk 3]
```diff
@@ -411,10 +411,14 @@ Proof. by rewrite -tnth_nth tnth_mktuple. Qed.
...
+Proof. by move=> eq_f; apply eq_from_tnth=> i; rewrite !tnth_map eq_f. Qed.
+
 End UseFinTuple.
 
 Notation "[ 'tuple' F | i < n ]" := (mktuple (fun i : 'I_n => F))
   (at level 0, i at level 0,
    format "[ '[hv' 'tuple'  F '/'   |  i  <  n ] ']'") : form_scope.
 
-
+Arguments eq_mktuple [n T' f1] f2 eq_f12.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/tuple.v]: At least for consistency, I believe `n` and `T` should be made maximally implicit.

**Comment by erikmd** [comment]
@CohenCyril thanks for your remark! I've edited the two `Arguments` lines as you suggested (and I also edited the line for `eq_mx` as it also seemed better for consistency).
I force-pushed a new commit (after rebasing on `master` even if it wasn't strictly necessary…)

File: mathcomp/algebra/matrix.v [hunk 4]
```diff
@@ -232,8 +232,13 @@ rewrite /fun_of_matrix; split=> [/= eqAB | -> //].
 by apply/val_inj/ffunP=> [[i j]]; apply: eqAB.
 Qed.
 
+Lemma eq_mx k F1 F2 : (F1 =2 F2) -> matrix_of_fun k F1 = matrix_of_fun k F2.
+Proof. by move=> eq_F; apply/matrixP => i j; rewrite !mxE eq_F. Qed.
+
 End MatrixDef.
 
+Arguments eq_mx {R m n} k [F1] F2 eq_F12.
```
Comment (CohenCyril) [inline mathcomp/algebra/matrix.v]: I do not think `k` should ever be given explicitly...

Comment (erikmd) [reply mathcomp/algebra/matrix.v]: @CohenCyril good point! So I've just put `k` as maximal implicit as well (but feel free to comment if you think it shouldn't be maximal…)

**Comment by erikmd** [comment]
Hi @CohenCyril! as you had not tagged this PR with the 1.8.0 milestone, I wanted to ask whether you think this could be shipped with the next MC release?

**Comment by CohenCyril** [comment]
@erikmd this answers your question
